### PR TITLE
fix(Wikipedia/RudinsConjecture): state uniqueness at N = GP_k + 1 ≥ 8

### LINKED ISSUE #4568: Wikipedia/RudinsConjecture: counterexample to rudins_conjecture_unique at N = 6
## Summary

The theorem `rudins_conjecture_unique` is false as currently stated. This is a
counterexample to the repository's literal uniqueness formalization, not to
Rudin's original `O(sqrt N)` conjecture or to the strong claim that `24n + 1`
attains the maximum.

This follows up on #2282 and the merged implementation in #4434. The affected
declaration is here:

https://github.com/google-deepmind/formal-conjectures/blob/e923379e609b9d5987011a1d1f06ec22ea25cd20/FormalConjectures/Wikipedia/RudinsConjecture.lean#L112-L120

## Finite counterexample

Take

- `N = 6`
- `q = 120`
- `a = 49`

The first six terms of `120n + 49` are

```
49, 169, 289, 409, 529, 649.
```

Exactly four are squares:

```
49 = 7^2
169 = 13^2
289 = 17^2
529 = 23^2
```

The other two are not squares because

```
20^2 < 409 < 21^2
25^2 < 649 < 26^2.
```

Therefore `Q 6 120 49 = 4`. Also `Nat.Coprime 120 49`, so `(120, 49)`
satisfies `IsNontrivial`.

## Why this progression is extremal

The file already proves `Q 6 24 1 = 4` in `Q_six_twentyfour_one`.
González-Jiménez and Xarles prove the strong equality

`Q(N) = Q(N; 24, 1)` for `6 <= N <= 52`:

https://arxiv.org/abs/1301.5122

Consequently `Qmax 6 = 4`, and hence

```
Q 6 120 49 = Qmax 6
```

while `120 != 24`. This contradicts the conclusion of
`rudins_conjecture_unique`.

## Scope and suggested correction

The cited uniqueness formulation is qualified by "up to equivalence" and has
more restricted scope. The current Lean theorem drops the equivalence relation
and asserts the literal conclusion `q = 24` for every `N >= 6`.

A safe correction would be to remove `rudins_conjecture_unique` until the
intended equivalence relation and source-accurate range are formalized, or to
restate it with those conditions. `rudins_conjecture` and
`rudins_conjecture_strong` are unaffected by this counterexample.

## AI assistance disclosure

OpenAI Codex assisted with the counterexample search, exact arithmetic
verification, comparison with the cited paper, and preparation of this report.
The account holder directed the investigation and authorized publication. The
displayed finite certificate and the literature-based extremality step should
receive normal independent review.

### PR DESCRIPTION
**Pull request by Deicyde**
fixes #4568

**What changed**

- `rudins_conjecture_unique` assumes `8 ≤ N` and `N = k (3k - 1) / 2 + 1` for some integer `k`, the values at which the super-strong form of González-Jiménez and Xarles asserts uniqueness. The docstring is rewritten accordingly.

**Why**

The statement asserted uniqueness of the common difference at every `N ≥ 6`, but at `N = 6` the progression `120 n + 49` contains the four squares `49, 169, 289, 529`, so it attains `Qmax 6 = 4` with `q ≠ 24`. The Lean file below refutes the statement as written. The [Wikipedia article](https://en.wikipedia.org/wiki/Rudin%27s_conjecture) states the super-strong form only for `N = GP_k + 1 ≥ 8`.

<details>
<summary>Lean counterexample (compiled with <code>lake --wfail build</code> against the current statement, standard axioms only)</summary>

```lean
import FormalConjectures.Wikipedia.RudinsConjecture

/-! Certificates concerning the exact audited definitions or propositions. -/

namespace Counterexamples.Group3.Rudin
open RudinsConjecture Filter Asymptotics

def countQ (N q a : ℕ) : ℕ :=
  ((Finset.range N).filter fun n => IsSquare (q * n + a)).card

lemma Q_eq_countQ (N q a : ℕ) : Q N q a = countQ N q a := by
  classical
  have hs : {n : ℕ | n < N ∧ IsSquare (q * n + a)} =
      (↑((Finset.range N).filter fun n => IsSquare (q * n + a)) : Set ℕ) := by
    ext n
    simp
  rw [Q, hs, Set.ncard_coe_finset]
  rfl

lemma Q_le_N (N q a : ℕ) : Q N q a ≤ N := by
  rw [Q_eq_countQ]
  exact (Finset.card_filter_le _ _).trans_eq (Finset.card_range N)

lemma admissible_counts_bdd (N : ℕ) :
    BddAbove {m : ℕ | ∃ q a : ℕ, IsNontrivial q a ∧ Q N q a = m} := by
  refine ⟨N, ?_⟩
  rintro m ⟨q, a, _, rfl⟩
  exact Q_le_N N q a

lemma Qmax_attained (N : ℕ) :
    ∃ q a, IsNontrivial q a ∧ Q N q a = Qmax N := by
  exact Nat.sSup_mem (s := {m : ℕ | ∃ q a : ℕ, IsNontrivial q a ∧ Q N q a = m})
    ⟨Q N 24 1, 24, 1, isNontrivial_24_1, rfl⟩ (admissible_counts_bdd N)

lemma Q_le_Qmax (N q a : ℕ) (hqa : IsNontrivial q a) : Q N q a ≤ Qmax N := by
  exact le_csSup (admissible_counts_bdd N) ⟨q, a, hqa, rfl⟩

lemma square_gap_twentyfour (x : ℕ) (hx : IsSquare x)
    (hy : IsSquare (x + 24)) : x ≤ 25 := by
  obtain ⟨r, rfl⟩ := hx
  obtain ⟨s, hs⟩ := hy
  have hrs : r < s := by nlinarith
  have hgap : r + 2 ≤ s := by
    by_contra h
    have heq : s = r + 1 := by omega
    subst s
    have heq : 2 * r = 23 := by nlinarith
    omega
  have hb : r ≤ 5 := by nlinarith
  nlinarith

lemma step24_count_le_four (a : ℕ) (ha : 1 ≤ a) : Q 6 24 a ≤ 4 := by
  by_cases h : a ≤ 25
  · interval_cases a <;> rw [Q_eq_countQ] <;> decide +kernel
  · have hpair0 : ¬ (IsSquare a ∧ IsSquare (24 + a)) := by
      rintro ⟨h0,h1⟩
      exact h (square_gap_twentyfour a h0 (by simpa [Nat.add_comm] using h1))
    have hpair2 : ¬ (IsSquare (48 + a) ∧ IsSquare (72 + a)) := by
      rintro ⟨h0,h1⟩
      have h' := square_gap_twentyfour (48 + a) h0 (by convert h1 using 1; omega)
      omega
    have hpair4 : ¬ (IsSquare (96 + a) ∧ IsSquare (120 + a)) := by
      rintro ⟨h0,h1⟩
      have h' := square_gap_twentyfour (96 + a) h0 (by convert h1 using 1; omega)
      omega
    rw [Q_eq_countQ]
    simp only [countQ, Finset.card_eq_sum_ones, Finset.sum_filter]
    simp only [Finset.sum_range_succ, Finset.sum_range_zero]
    norm_num only at *
    split_ifs <;> simp_all

-- Disproof of the N=6 instance of the file's uniqueness statement.
-- Uses only proved API/test lemmas, not the sorry-bearing conjectures.
theorem not_unique_at_six :
    ¬ (∀ q a, IsNontrivial q a → Q 6 q a = Qmax 6 → q = 24) := by
  intro huniq
  obtain ⟨q, a, hqa, hmax⟩ := Qmax_attained 6
  have hq := huniq q a hqa hmax
  subst q
  have hu : Qmax 6 ≤ 4 := by
    rw [← hmax]
    exact step24_count_le_four a hqa.2.1
  have hl : 4 ≤ Qmax 6 := by
    simpa only [Q_six_twentyfour_one] using Q_le_Qmax 6 24 1 isNontrivial_24_1
  have hm : Qmax 6 = 4 := le_antisymm hu hl
  have hc : Q 6 120 49 = 4 := by rw [Q_eq_countQ]; decide +kernel
  have hn : IsNontrivial 120 49 := by unfold IsNontrivial; decide +kernel
  have h := huniq 120 49 hn (hc.trans hm.symm)
  norm_num at h

theorem not_rudins_conjecture_unique :
    ¬ (∀ N : ℕ, 6 ≤ N → ∀ q a : ℕ,
      IsNontrivial q a → Q N q a = Qmax N → q = 24) := by
  intro h
  exact not_unique_at_six (h 6 (by decide))

theorem full_refutation : ¬ (type_of% RudinsConjecture.rudins_conjecture_unique) :=
  not_rudins_conjecture_unique

#print axioms full_refutation
end Counterexamples.Group3.Rudin
```

</details>

**How I checked**

- `lake --wfail build FormalConjectures.Wikipedia.RudinsConjecture` passes.
- `6` is not of the form `GP_k + 1` with `N ≥ 8`, so the counterexample no longer applies.

Identified by the fc-review audit: https://tadamcz.com/fc-review-results/#/f/Wikipedia/RudinsConjecture

AI disclosure: drafted with Claude Code.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: FormalConjectures/Wikipedia/RudinsConjecture.lean [hunk 1]
```diff
@@ -108,12 +108,16 @@ theorem rudins_conjecture_strong (N : ℕ) (hN : 6 ≤ N) : Q N 24 1 = Qmax N :=
...
+is a generalized pentagonal number: any non-trivial arithmetic progression attaining the maximum
+$Q(N)$ has common difference $24$. (Its initial term is then forced by $\gcd(24, a) = 1$; the
+progression $24n + 1$ is the canonical representative.) Uniqueness fails at other values of $N$:
+for $N = 6$ the progression $120 n + 49$ also attains $Q(6) = 4$.
 -/
 @[category research open, AMS 11]
-theorem rudins_conjecture_unique (N : ℕ) (hN : 6 ≤ N) (q a : ℕ)
+theorem rudins_conjecture_unique (N : ℕ) (hN : 8 ≤ N)
+    (hN' : ∃ k : ℤ, (N : ℤ) = k * (3 * k - 1) / 2 + 1) (q a : ℕ)
     (hqa : IsNontrivial q a) (hmax : Q N q a = Qmax N) : q = 24 := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RudinsConjecture.lean:121]:
```suggestion
    (hqa : IsNontrivial q a) (hmax : Q N q a = Qmax N) : q = 24 ∧ a = 1 := by
```
is this needed as well, otherwise a=25 is a counter example?

Comment (mo271) [reply FormalConjectures/Wikipedia/RudinsConjecture.lean:121]: see also #4568

Comment (mo271) [reply FormalConjectures/Wikipedia/RudinsConjecture.lean:121]: @Deicyde do you have cycles to take a look at that? 
Otherwise I'm happy to take over
